US06818644B1
9-{4-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide
Prepared analogously to Example 2 b from 1-(5-trifluoromethyl-pyridin-2-yl)-piperazine and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide.

reactant | 1-(5-trifluoromethyl-pyridin-2-yl)-piperazine | FC(C=1C=CC(=NC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
product | 9-{4-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F)(F)F | C30H30F6N4O
